US07420001B2
To 150 mg of 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 4 mL of TFA/dichloromethane (1:1) and the solution was stirred at room temperature for 3 h. When the reaction was done, the solvents were removed under vacuum and the residue was triturated with hexane/dichloromethane. Filtration of the suspension gave 121 mg (100% yield) of 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid as a white solid.

reactant | 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)C#N)OC | C16H17NO4
reactant | TFA dichloromethane | 4 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 121 mg, 100% yield | C(#N)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC | C12H9NO4
